US07687490B2
Isobutyloxycarbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate
In the same manner as in Example 81, 294 mg of the title compound was prepared from 344 mg of sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate and 264 mg of isobutyloxycarbonyloxymethyl iodide.

reactant | sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 344 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
reactant | isobutyloxycarbonyloxymethyl iodide | 264 mg | C(C(C)C)OC(=O)OCI | C6H11IO3
product | Isobutyloxycarbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 294 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OCOC(=O)OCC(C)C)C1=O | C22H28N2O8S2
